US07098332B2
To the solution of 3-(2-phenylamino-4-isobutylamino-pyrimidin-5-yl)-2-(4-methoxy-phenyl)-propionic acid methyl ester (17.1 mg, 0.04 mmol) in glacial acetic acid (1 mL) was added concentrated sulfuric acid (0.1 mL) in one portion. The reaction mixture was heated at 85° C. overnight. After cooling, the reaction mixture was diluted with ethyl acetate (50 mL) and quenched with 2 N aqueous sodium hydroxide solution. The organic layer was separated and successively washed with water (10 mL) and brine (10 mL), dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to give 8-isobutyl-6-(4-methoxy-phenyl)-2-phenylamino-5,8-dihydro-6H-pyrido[2,3-d]pyrimidine-7-one as a brown solid. (14.3 mg, 90.5%). HRMS m/z Calcd for C24H26N4O2 [(M+H)+]: 403.2129. Found: 403.2131.

reactant | 3-(2-phenylamino-4-isobutylamino-pyrimidin-5-yl)-2-(4-methoxy-phenyl)-propionic acid methyl ester | 0.04 mmol, 17.1 mg | COC(C(CC=1C(=NC(=NC1)NC1=CC=CC=C1)NCC(C)C)C1=CC=C(C=C1)OC)=O | C25H30N4O3
reactant | sulfuric acid | 0.1 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 8-isobutyl-6-(4-methoxy-phenyl)-2-phenylamino-5,8-dihydro-6H-pyrido[2,3-d]pyrimidine-7-one | C(C(C)C)N1C(C(CC2=C1N=C(N=C2)NC2=CC=CC=C2)C2=CC=C(C=C2)OC)=O | C24H26N4O2
